US09102614B2
Preparation of 1-(3-chloro-4-fluorophenyl)propan-2-one:
To a solution of 2-(3-chloro-4-fluorophenyl)acetic acid (18.46 g, 97.89 mmol) in acetic anhydride (463 mL) was added N-methylimidazole (3.9 mL) and the reaction mixture was stirred overnight at room temperature. The reaction mixture was partitioned between ethyl acetate and saturated sodium bicarbonate solution and organic layer was concentrated and purified by flash column chromatography (silica gel, ethyl acetate/hexanes) to give a colorless oil (14.5 g, 79%). 1H NMR (400 MHz, CDCl3) δ 7.23 (dd, J=6.9, 2.1 Hz, 1H), 7.14-7.00 (m, 2H), 3.66 (s, 2H), 2.19 (s, 3H).

reactant | 2-(3-chloro-4-fluorophenyl)acetic acid | 97.89 mmol, 18.46 g | ClC=1C=C(C=CC1F)CC(=O)O | C8H6ClFO2
reactant | N-methylimidazole | 3.9 mL | CN1C=NC=C1 | C4H6N2
solvent | acetic anhydride | 463 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(3-chloro-4-fluorophenyl)propan-2-one | 14.5 g, 79% | ClC=1C=C(C=CC1F)CC(C)=O | C9H8ClFO
